US07919519B2
To a solution of 4-benzylbenzenamine (3.00 g, 16.4 mmol) in 16 mL MeOH was added iodine (2.49 g, 9.82 mmol) followed by hydrogen peroxide, 30% in water (1.67 mL, 16.4 mmol). The dark solution was allowed to stir overnight. The reaction was partitioned between water/brine and EtOAc. The organic layer was washed 1× brine, dried over MgSO4, filtered, and concentrated. The resulting oil was purified by ISCO (120 g, 0-10% EtOAc/hexanes) to give 4-benzyl-2-iodobenzenamine as a red oil which slowly solidified to a red solid. MS (ESI) m/z: Calculated: 309.0; Observed: 310.0 (M++1).

reactant | 4-benzylbenzenamine | 16.4 mmol, 3.00 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)N | C13H13N
reactant | iodine | 9.82 mmol, 2.49 g | II | I2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 16.4 mmol, 1.67 mL | O | H2O
solvent | MeOH | 16 mL | CO | CH4O
product | 4-benzyl-2-iodobenzenamine | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N)I | C13H12IN
